US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g), p-cyanophenylglycidyl ether (17.5 g) and benzyltrimethylammonium hydroxide (10 drops of a 40% solution) was heated under reflux for 2 days. The solvent was then removed by evaporation under reduced pressure to give 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-cyanophenoxypropane, 28.4 g, as a beige solid. A portion was recrystallized from ethanol affording cream prisms m.p. 157°-158°.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | p-cyanophenylglycidyl ether | 17.5 g | C(#N)C1=CC=C(C=C1)C(C1CO1)OC(C1CO1)C1=CC=C(C=C1)C#N | C20H16N2O3
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-cyanophenoxypropane | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)C#N)O)C=CC=C1O | C18H17NO5
